US06355798B1
d) 7-Cyclobutyl-6-(5,6-dihydro-8H-1,2,4-triazolo[1,5-α]pyrazin-7-yl)-3-phenyl-1,2,4-triazolo[4,3-b]pyridazine
A mixture of 6-chloro-7-cyclobutyl-3-phenyl-1,2,4-triazolo[4,3-b]pyridazine (150 mg, 0.53 mmol) and 5,6,7,8-tetrahydro-1,2,4-triazolo[1,5-α]pyrazine (190 mg, 1.53 mmol) in dimethyl sulphoxide (1 ml) was stirred and heated at 150° C. for 20 hours. The mixture was partitioned between dichloromethane and water. The aqueous phase was further extracted with dichloromethane (x2). The combined extracts were dried (Na2SO4), filtered and evaporated. The residue was purified by chromatography on silica gel, eluting with 3→4% methanol-dichloromethane to give the title compound (52 mg, 26%) as an off-white solid (after trituration with diethyl ether). 1H NMR (360 MHz, CDCl3) δ 2.00-2.28 (4H, m), 2.48-2.55 (2H, m), 3.68-3.80 (3H, m), 4.43 (2H, t, J=5.5 Hz), 4.67 (2H, s), 7.46-7.56 (3H, m), 7.97 (1H, s), 8.09 (1H, s),8.37 (2H, br d, J=8 Hz); MS (ES+) m/e 373 [MH]+.

reactant | 6-chloro-7-cyclobutyl-3-phenyl-1,2,4-triazolo[4,3-b]pyridazine | 0.53 mmol, 150 mg | ClC=1C(=CC=2N(N1)C(=NN2)C2=CC=CC=C2)C2CCC2 | C15H13ClN4
reactant | 5,6,7,8-tetrahydro-1,2,4-triazolo[1,5-α]pyrazine | 1.53 mmol, 190 mg | N=1C=NN2C1CNCC2 | C5H8N4
solvent | dimethyl sulphoxide | 1 ml | CS(=O)C | C2H6OS
product | 7-Cyclobutyl-6-(5,6-dihydro-8H-1,2,4-triazolo[1,5-α]pyrazin-7-yl)-3-phenyl-1,2,4-triazolo[4,3-b]pyridazine | 52 mg, 26% | C1(CCC1)C1=CC=2N(N=C1N1CC=3N(CC1)N=CN3)C(=NN2)C2=CC=CC=C2 | C20H20N8
